US07144908B2
iii) tert-Butyl (2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethylcarbamate
A 2M solution of borane—dimethyl sulphide in THF (28 ml) was added slowly to a 1M solution of (R)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole in toluene (56 ml) at 0° under nitrogen. A solution of tert-butyl 2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxoethylcarbamate, (108.2 g) in THF (1.3 litres) was added slowly keeping the temperature below 5° followed by 2M solution of borane—dimethyl sulphide in THF (252 ml) over 50 min. After 1 h, 2M HCl (170 ml) was added with cooling and the mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated NaHCO3 solution and brine and dried (MgSO4). The solution was concentrated and the product purified by chromatography on flash silica gel (800 g), eluting successively with hexane:ethyl acetate (4:1 then 3:1) to give the title compound (93.3 g), LCMS RT=3.31 min.

reactant | borane dimethyl sulphide | B.CSC
reactant | (R)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | tert-butyl 2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxoethylcarbamate | 108.2 g | CC1(OCC2=C(O1)C=CC(=C2)C(CNC(OC(C)(C)C)=O)=O)C | C17H23NO5
reactant | HCl | 2M, 170 ml | Cl | ClH
solvent | THF | 28 ml | C1CCOC1 | C4H8O
solvent | toluene | 56 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1.3 litres | C1CCOC1 | C4H8O
solvent | THF | 252 ml | C1CCOC1 | C4H8O
product | tert-Butyl (2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethylcarbamate | 93.3 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNC(OC(C)(C)C)=O)O)C | C17H25NO5
